US04605674
A solution of 2'-hydroxy-4,4',6'-trimethoxychalcone (120 mg) and stearic anhydride (210 mg) in 10 ml of pyridine was stirred at 105° C. for 8 hours and then evaporated. To the oily residue were added 30 ml of ethyl acetate and 30 ml of saturated aqueous sodium bicarbonate, and the mixture was shaken, whereupon a solid of sodium stearate was precipitated. After removal of the precipitate by filtration, the ethylacetate layer was separated, washed with water, dried over Na2SO4 and evaporated. Recrystallization of the residue from methanol gave 200 mg (91% yield) of 2',4,4'-trimethoxy-6'-(octadecanoyloxy)chalcone as pale yellow needles; m.p. 65°-66° C.

reactant | 2'-hydroxy-4,4',6'-trimethoxychalcone | 120 mg | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1)OC)OC | C18H18O5
reactant | stearic anhydride | 210 mg | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2',4,4'-trimethoxy-6'-(octadecanoyloxy)chalcone | 200 mg, 91% yield | COC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1)OC)OC(CCCCCCCCCCCCCCCCC)=O | C36H52O6
